US07795267B2
2-Benzoyl-1,4-bis(phenylmethyl)piperazine dihydrochloride
1,4-Bis(phenylmethyl)-N-methoxy-N-methyl-2-piperazine carboxamide (2.9 g, 8.1 mmol) was dissolved in tetrahydrofuran (30 mL) under argon atmosphere. A 1.0 M solution of phenylmagnesium bromide in tetrahydrofuran (24 mL, 24 mmol) was added dropwise thereto over 30 minutes with ice cooling. After the mixture was stirred at room temperature for 14 hours, an aqueous saturated ammonium chloride solution (200 mL) was added dropwise thereto with ice cooling, and the resulting mixture was extracted with ethyl acetate (200 ml). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane to hexane:ethyl acetate=2:1). The fractions were collected and concentrated. The residue was dissolved in ethyl acetate, a 4 N hydrogen chloride/ethyl acetate solution (4 mL) was added thereto, and the resulting mixture was stirred at room temperature for 5 minutes. The resulting crystals were collected by filtration and washed with ethyl acetate to obtain the title compound (1.5 g, yield 51%).

reactant | 1,4-Bis(phenylmethyl)-N-methoxy-N-methyl-2-piperazine carboxamide | 8.1 mmol, 2.9 g | C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)C(=O)N(C)OC | C21H27N3O2
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 24 mmol, 24 mL | O1CCCC1 | C4H8O
product | 2-Benzoyl-1,4-bis(phenylmethyl)piperazine dihydrochloride | 1.5 g, yield 51% | Cl.Cl.C(C1=CC=CC=C1)(=O)C1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | InChI=1S/C25H26N2O.2ClH/c28-25(23-14-8-3-9-15-23)24-20-26(18-21-10-4-1-5-11-21)16-17-27(24)19-22-12-6-2-7-13-22;;/h1-15,24H,16-20H2;2*1H
